US08703807B2
Step 5: 2-(4-Trifluoromethyl-phenyl)-2-aza-spiro[4.5]decane-1,8-dione
10-(4-Trifluoromethyl-phenyl)-1,4-dioxa-10-aza-dispiro[4.2.4.2]tetradecan-9-one (6.7 g) was dissolved in tetrahydrofuran (189 ml) aqueous hydrochloric acid solution (2M, 94.3 ml) was added and the mixture was stirred for 12 hours at RT. The reaction mixture was poured into ice/water and extracted twice with ethyl acetate. The combined organic layers were washed with brine, dried over Na2SO4, filtered and the solvent was evaporated to give the title compound as a colorless foam (4.9 g). MS (m/e): 311 [M+].

reactant | 10-(4-Trifluoromethyl-phenyl)-1,4-dioxa-10-aza-dispiro[4.2.4.2]tetradecan-9-one | 6.7 g | FC(C1=CC=C(C=C1)N1C(C2(CCC3(OCCO3)CC2)CC1)=O)(F)F | C18H20F3NO3
solvent | tetrahydrofuran | 2M, 189 ml | O1CCCC1 | C4H8O
product | 2-(4-Trifluoromethyl-phenyl)-2-aza-spiro[4.5]decane-1,8-dione | 4.9 g | FC(C1=CC=C(C=C1)N1C(C2(CC1)CCC(CC2)=O)=O)(F)F | C16H16F3NO2
